US04036828
A solution of 1.0 gram of 3,4-dimethoxy-3-cyclobutene-1,2-dione dissolved in 30 ml. of absolute ethanol is mixed with a solution of 1.4 grams of 1-methylpiperazine in 30 ml. of absolute ethanol. The resulting mixture is stirred and heated to reflux for 5 hours under an atmosphere of dry nitrogen. After concentration to approximately one-sixth the volume under reduced pressure, the reaction mixture is cooled and crystallization is induced by scratching. The resultant precipitate is filtered, washed with 0.5 ml. of absolute ethanol, and dried in a steam cabinet. The resulting, product, 3,4-bis(4-methyl-1-piperazinyl)-3-cyclobutene-1,2-dione is obtained as white crystals melting at about 189°-191° C.

reactant | 3,4-dimethoxy-3-cyclobutene-1,2-dione | 1.0 gram | COC=1C(C(C1OC)=O)=O | C6H6O4
reactant | 1-methylpiperazine | 1.4 grams | CN1CCNCC1 | C5H12N2
solvent | ethanol | C(C)O | C2H6O
product | 3,4-bis(4-methyl-1-piperazinyl)-3-cyclobutene-1,2-dione | CN1CCN(CC1)C=1C(C(C1N1CCN(CC1)C)=O)=O | C14H22N4O2
